US07635715B2
Step B: Preparation of Diethyl 2-(4-(4-chlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate
To a solution of 4-(4-chlorophenyl)tetrahydro-2H-pyran-4-carboxylic acid (0.500 g, 2.08 mmol) in IPAc (2.5 mL) was added DMF (0.050 mL). Oxalyl chloride (0.277 g, 0.19 mL, 2.18 mmol) was then added at ambient temperature over a period of 20 minutes. The resulting solution was stirred at room temperature for a period of 2 hours. In a separate flask, a solution of diethyl malonate (0.420 g, 0.40 mL, 2.60 mmol) in IPAc (3.5 mL) was treated with MgCl2 (0.247 g, 2.60 mmol). The resulting slurry was aged at room temperature for 30 minutes and subsequently treated with TEA (0.704 g, 0.97 mL, 2.60 mmol). After a further 2 hours at ambient temperature, the malonate slurry was cooled to 5° C. and treated with the acyl chloride solution. The resulting mixture was aged at room temperature for 2 hours then treated with a 5N HCl solution (2.5 mL). The organic layer was separated, and the aqueous layer was extracted 3 times with IPAc (2.5 mL). The organic phases were combined, dried (MgSO4), and concentrated under reduced pressure to afford the title compound as an orange oil. MS m/e=383.2 (M+H)+.

reactant | 4-(4-chlorophenyl)tetrahydro-2H-pyran-4-carboxylic acid | 2.08 mmol, 0.500 g | ClC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C12H13ClO3
reactant | Oxalyl chloride | 2.18 mmol, 0.19 mL, 0.277 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl malonate | 2.60 mmol, 0.40 mL, 0.420 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 2.60 mmol, 0.247 g | [Mg+2].[Cl-].[Cl-]
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
reactant | HCl | 5N, 2.5 mL | Cl | ClH
solvent | DMF | 0.050 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-(4-(4-chlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | ClC1=CC=C(C=C1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H23ClO6
